US05478856
A 500 mg of 5-chloromethyl-3,4-bis(4-methoxyphenyl)isoxazole was dissolved in a mixed solvent of dimethylsulfoxide (3 ml) and water (1 ml). To the solution, 122 mg of potassium cyanide was added, and the mixture was stirred at room temperature for 18 hours. A 80 ml of ethyl acetate was added to the mixture. The resulting mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give 210 mg (yield 43.1%) of a desired 5-cyanomethyl-3,4-bis(4-methoxyphenyl)isoxazole.

reactant | 5-chloromethyl-3,4-bis(4-methoxyphenyl)isoxazole | 500 mg | ClCC1=C(C(=NO1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C18H16ClNO3
reactant | potassium cyanide | 122 mg | [C-]#N.[K+]
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | water | 1 ml | O | H2O
product | 5-cyanomethyl-3,4-bis(4-methoxyphenyl)isoxazole | 210 mg, yield 43.1% | C(#N)CC1=C(C(=NO1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H16N2O3
